US09260363B2
Synthesis of 4,4,5,5-tetramethyl-1,3,2-dioxaborolane-10,10-dimethyl-10H-dibenzo[f,h]indeno[1,2-b]quinoline
A mixture of 3 g (7 mmol) 12-bromo-10,10-dimethyl-10H-dibenzo[f,h]indeno[1,2-b]quinoline, 2 g (7.9 mmol) of bis(pinacolato)diboron, 0.085 g (0.07 mmol) of Tetrakis(triphenylphosphine)palladium, 2 g (21 mmol) of potassium acetate, and 50 ml 1,4 dioxane was degassed and placed under nitrogen, and then heated at 90° C. for 8 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic phase separated and washed with ethyl acetate and water. After drying over magnesium sulfate, the solvent was removed in vacuo. The residue was purified by column chromatography on silica (hexane-dichloromethane) to give product (2.4 g, 72%) as a light-yellow solid.

reactant | 12-bromo-10,10-dimethyl-10H-dibenzo[f,h]indeno[1,2-b]quinoline | 7 mmol, 3 g | BrC=1C=C2C=C3C(N=C4C5=C(C6=C(C4=C3)C=CC=C6)C=CC=C5)=C2C(C1)(C)C | C26H18BrN
reactant | bis(pinacolato)diboron | 7.9 mmol, 2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21 mmol, 2 g | C(C)(=O)[O-].[K+]
catalyst | Tetrakis(triphenylphosphine)palladium | 0.07 mmol, 0.085 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4 dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane 10,10-dimethyl-10H-dibenzo[f,h]indeno[1,2-b]quinoline | 2.4 g, 72% | CC1(OBOC1(C)C)C.CC1(C=CC=C2C=C3C(N=C4C5=C(C6=C(C4=C3)C=CC=C6)C=CC=C5)=C12)C | InChI=1S/C26H19N.C6H13BO2/c1-26(2)13-7-8-16-14-17-15-22-20-11-4-3-9-18(20)19-10-5-6-12-21(19)25(22)27-24(17)23(16)26;1-5(2)6(3,4)9-7-8-5/h3-15H,1-2H3;7H,1-4H3
